US09388147B2
Methyl 3-cyano-4-(cyclopropylmethoxy)benzoate
Prepared from methyl 3-bromo-4-(cyclopropylmethoxy)benzoate according to the procedure for methyl 3-cyano-5-isopropoxybenzoate. LCMS-ESI (m/z) calculated for C13H13NO3: 231.3; no m/z observed, tR=3.97 min.

reactant | methyl 3-bromo-4-(cyclopropylmethoxy)benzoate | BrC=1C=C(C(=O)OC)C=CC1OCC1CC1 | C12H13BrO3
reactant | methyl 3-cyano-5-isopropoxybenzoate | C(#N)C=1C=C(C(=O)OC)C=C(C1)OC(C)C | C12H13NO3
product | Methyl 3-cyano-4-(cyclopropylmethoxy)benzoate | C(#N)C=1C=C(C(=O)OC)C=CC1OCC1CC1 | C13H13NO3
